US04380643
Pure 2(2-hydroxy-5-methylphenyl)-5-ethyl-2H-benzotriazole was obtained by the hydrolysis of 2(2-acetoxy-5-methylphenyl)5-ethyl-2H-benzotriazole. A solution of 2(2-acetoxy-5-methylphenyl)5-ethyl-2H-benzotriazole (5.9 g, 0.02 mole) and 10 ml of ethanol was poured into a solution of sodium hydroxide (2.0 g, 0.05 mole). The resulting fine dispersion was heated to 80° C. for 3 hours. After cooling to room temperature, the homogeneous solution was acidified with 1 N aqueous hydrochloric acid solution and the solid precipitate was extracted with carbon tetrachloride. The solution was chromatographed and the eluate concentrated under reduced pressure. The residue was recrystallized from n-hexane by cooling the solution to -78° C. White needles were obtained which were collected by filtration, washed with cold n-hexane and dried. 2.7 g (54% yield) of 2(2-hydroxy-5-methylphenyl)5-ethyl-2H-benzotriazole was obtained, which had following properties.

reactant | 2(2-acetoxy-5-methylphenyl)5-ethyl-2H-benzotriazole | 0.02 mole, 5.9 g | C(C)(=O)OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC(=C2)CC | C17H17N3O2
reactant | sodium hydroxide | 0.05 mole, 2.0 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2(2-hydroxy-5-methylphenyl)5-ethyl-2H-benzotriazole | 2.7 g, 54% yield | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC(=C2)CC | C15H15N3O
